US06620811B2
2-[(2R,6S)-2,6-Dimethyl-morpholin-4-yl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and cis-2,6-dimethylmorpholine. ES-MS m/e (%):

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cis-2,6-dimethylmorpholine | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
product | 2-[(2R,6S)-2,6-Dimethyl-morpholin-4-yl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | C[C@@H]1CN(C[C@@H](O1)C)C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C24H29N5O4S
